US08431593B2
I. {5-[(ADAMANTAN-1-YLMETHYL)-CARBAMOYL]-IMIDAZO[1,2-A]PYRIDIN-2-YL}-ACETIC ACID ETHYL ESTER
A mixture of N-(1-adamantylmethyl)-6-aminopyridine-2-carboxamide (1.4 g, 4.9 mmol) and 4-chloro-3-oxo-butyric acid ethyl ester (808 mg, 4.9 mmol) in EtOH (20 mL) is heated under reflux for 20 h. After cooling to RT, the solvent is removed in vacuo. The residue is partitioned between EtOAc and saturated aqueous sodium carbonate. The organic layer is separated, and the aqueous layer is back extracted with EtOAc. The combined organic layers are washed with water and brine, dried over sodium sulfate, and concentrated. The brown residue is purified by re-crystallization from 2% MeOH in CH2Cl2 to give the title compound. 1H-NMR (δ, ppm, CDCl3 as internal standard): 8.39 (s, 1H), 7.71 (d, 1H), 7.16 (t, 1H), 7.06 (d, 1H), 6.22 (m, 1H), 4.20 (q, 2H), 3.87 (s, 2H), 3.20 (d, 2H), 2.02 (m, 3H), 1.78-1.58 (m, 12H), 1.28 (t, 3H).

reactant | N-(1-adamantylmethyl)-6-aminopyridine-2-carboxamide | 4.9 mmol, 1.4 g | C12(CC3CC(CC(C1)C3)C2)CNC(=O)C2=NC(=CC=C2)N | C17H23N3O
reactant | 4-chloro-3-oxo-butyric acid ethyl ester | 4.9 mmol, 808 mg | C(C)OC(CC(CCl)=O)=O | C6H9ClO3
solvent | EtOH | 20 mL | CCO | C2H6O
product | {5-[(ADAMANTAN-1-YLMETHYL)-CARBAMOYL]-IMIDAZO[1,2-A]PYRIDIN-2-YL}-ACETIC ACID ETHYL ESTER | C(C)OC(CC=1N=C2N(C(=CC=C2)C(NCC23CC4CC(CC(C2)C4)C3)=O)C1)=O | C23H29N3O3
